US07179934B2
2-tert-Butyl-5-[2-(2,4-difluoro-benzyl)-butyl]-3-methyl-4-oxo-tetrahydro-pyrimidine-1-carboxylic acid methyl ester
A flask was charged with 1.35 mL (9.64 mmol) of diisopropyl amine and 15 mL of dry THF. The solution was cooled to −78° C. and 6.0 mL (9.64 mmol) of 1.6 M n-butyl lithium solution in hexanes was added. The mixture was warmed to 0° C. and stirred for 30 minutes. The mixture was cooled again to −78° C. and 2.0 g (8.76 mmol) of (2S)-2-tert-butyl-3-methyl-4-oxo-tetrahydro-pyrimidine-1-carboxylic acid methyl ester was added as a solution in 10 mL of THF. This mixture was warmed to 0° C. and stirred for 1 hour. The anion solution was cooled again to −78° C. and 2.99 g (9.64 mmol) of (S)-2,4-difluoro-1-(2-iodomethyl-butyl)-benzene was added as a solution in THF. The mixture was stirred at −78° C. for 4 hours. The reaction mixture was warmed to −21° C. and stirred at that temperature for 5 days. The reaction mixture was quenched with sat. aq. ammonium chloride solution. The crude reaction mixture was extracted with diethyl ether. The ether was removed under reduced pressure, and the crude residue was purified by column chromatography (9:1 hexanes/EtOAc eluent) which gave 1.67 g (46% yield) of the titled compound as a white solid.

reactant | diisopropyl amine | 9.64 mmol, 1.35 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 9.64 mmol, 1.6 M, 6.0 mL | C(CCC)[Li]
reactant | (2S)-2-tert-butyl-3-methyl-4-oxo-tetrahydro-pyrimidine-1-carboxylic acid methyl ester | 8.76 mmol, 2.0 g | COC(=O)N1[C@H](N(C(CC1)=O)C)C(C)(C)C | C11H20N2O3
reactant | (S)-2,4-difluoro-1-(2-iodomethyl-butyl)-benzene | 9.64 mmol, 2.99 g | FC1=C(C=CC(=C1)F)C[C@H](CC)CI | C11H13F2I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-tert-Butyl-5-[2-(2,4-difluoro-benzyl)-butyl]-3-methyl-4-oxo-tetrahydro-pyrimidine-1-carboxylic acid methyl ester | 1.67 g, 46% yield | COC(=O)N1C(N(C(C(C1)CC(CC)CC1=C(C=C(C=C1)F)F)=O)C)C(C)(C)C | C22H32F2N2O3
